US04350644
A suspension of 1-(4-isopropylphenyl) ethylamine (81 g) was stirred vigorously in a solution of sodium hydroxide (50 g) in water (250 ml) at room temperature. Dimethyl sulphate (64 g) was added dropwise to the stirred suspension over a period of 1 hour. The suspension was stored in a refrigerator overnight and three layers were formed. The top layer of organic material was extracted with ether and the ether solution was separated and dried over anhydrous magnesium sulphate. The ether was evaporated under reduced pressure to give a yellow oil which was distilled at a water pump to give N-methyl-1-(4-isopropylphenyl) ethylamine (61 g, 69%) colourless oil, boiling point 112° to 114° C./20 mm.

reactant | 1-(4-isopropylphenyl) ethylamine | 81 g | C(C)(C)C1=CC=C(C=C1)C(C)N | C11H17N
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | Dimethyl sulphate | 64 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 250 ml | O | H2O
product | N-methyl-1-(4-isopropylphenyl) ethylamine | 61 g, 69% | CNC(C)C1=CC=C(C=C1)C(C)C | C12H19N
